US04904690
Ethyl [2-(1-cyclohexenyl)-4-oxo-4H-[1]-benzopyran-8-yl]acetate
[2-(1-Cyclohexenyl)-4-oxo-4H-[1]-benzopyran-8-yl]acetic acid (2.0 g) was dissolved in ethanol (50 ml) and to the solution was added conc. sulfuric acid (0.5 ml). The mixture was heated under reflux for 5 hours. After dilution with water, the mixture was extracted with ethyl acetate and the extract was washed with water, dried (MgSO4) and concentrated under reduced pressure to obtain the title compound as crystals. The crystals were recrystallized from ethyl acetate to obtain prisms, yield 1.34 g (61.0%), m.p. 126°-127° C.

reactant | [2-(1-Cyclohexenyl)-4-oxo-4H-[1]-benzopyran-8-yl]acetic acid | 2.0 g | C1(=CCCCC1)C=1OC2=C(C(C1)=O)C=CC=C2CC(=O)O | C17H16O4
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | Ethyl [2-(1-cyclohexenyl)-4-oxo-4H-[1]-benzopyran-8-yl]acetate | C1(=CCCCC1)C=1OC2=C(C(C1)=O)C=CC=C2CC(=O)OCC | C19H20O4
